US09085576B2
To a solution of methyl 5-(prop-1-yn-1-yl)picolinate (0.18 g, 1.05 mmol) in tetrahydrofuran (3.48 ml) was added sodium hydroxide 1.0 N solution (1.05 mL, 1.045 mmol, Sigma). The reaction was stirred for 1.5 hours at room temperature. Hydrogen chloride (4.0M solution in 1,4-dioxane; 0.26 ml, 1.05 mmol, Sigma Aldrich) was added and the reaction stirred for an additional 10 minutes. The reaction was concentrated in vacuo to provide 5-(prop-1-yn-1-yl)picolinic acid as a light yellow solid. The material was used without further purification assuming theoretical yield. MS m/z [M+H]+=162.1. Calculated from C9H7NO2: 161.157

reactant | methyl 5-(prop-1-yn-1-yl)picolinate | 1.05 mmol, 0.18 g | C(#CC)C=1C=CC(=NC1)C(=O)OC | C10H9NO2
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
reactant | Hydrogen chloride | 1.05 mmol, 4.0M, 0.26 ml | Cl | ClH
solvent | tetrahydrofuran | 3.48 ml | O1CCCC1 | C4H8O
product | 5-(prop-1-yn-1-yl)picolinic acid | C(#CC)C=1C=CC(=NC1)C(=O)O | C9H7NO2
